US06080773
To a solution of 4.1 g of 2-(4,5,6,7-tetrahydro-1,2-benzisoxazol-3-yl)-bromobenzene in 100 ml of ether at a temperature of -40° C. was added 11 ml of a 1.5M solution of butyllithium in hexane with magnetic stirring. The reaction was warmed to -20° C. and held at this temperature for 5 minutes. The lithio species was quenched by the addition of 1.3 ml of N,N-dimethylformamide. To the reaction was added 100 ml of saturated ammonium chloride and the solution was extracted with two 200 ml portions of ether. The combined organic layers were dried over sodium sulfate and evaporated to yield 3.5 g of 2-(4,5,6,7-tetrahydro-1,2-benzisoxazol-3-yl)-benzaldehyde, GC-M.S. (E.I.) (M/Z): 226 [M-H]+.

reactant | 2-(4,5,6,7-tetrahydro-1,2-benzisoxazol-3-yl)-bromobenzene | 4.1 g | O1N=C(C2=C1CCCC2)C2=C(C=CC=C2)Br | C13H12BrNO
reactant | butyllithium | C(CCC)[Li]
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 2-(4,5,6,7-tetrahydro-1,2-benzisoxazol-3-yl)-benzaldehyde | 3.5 g | O1N=C(C2=C1CCCC2)C2=C(C=O)C=CC=C2 | C14H13NO2
